Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-5.2079172739
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2],8.50787373582
[O:1]=[C:2]1[C:3][C:4]([H:5])[C@@:6]1([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]=[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-1.03289840706
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11].[H:1][C:2],7.26145704
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])=[C:8]([H:9])[O:10][O:11]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][O:11],0.669213481219
[H:1][O:2]/[C:3]=[C:4](\[O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2],5.46900093514
[H:10].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]=[O:9]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10],-4.01490093741
[H:1][C:2][O:9]/[C:7](=[C:5](/[O:4][C:3])[H:6])[H:8]>>[H:1][C:2]1=[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[O:9]1,-3.90723743482
[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9]>>[H:9].[O:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8],1.93594702636
[O:1]=[C:2](/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:6].[O:1]=[C:2](/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],4.84009629949
[C:1]#[C:2][O:3][H:4].[C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-2.42129466502
[H:1][C:2]1[O:3][O:4][C:5]1([H:6])[H:7]>>[H:1][C:2][C:5]([O:4][O:3])([H:6])[H:7],2.58630637705
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[C:5]1[C:6]2[O:7][C@:8]12[C:9]([H:10])([H:11])[H:12],-1.00418591205
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][O:8][C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][O:8],3.19054693037
[H:1][O:2][C:3][O:4][C:5]#[C:7][C:8]([H:9])[H:10].[H:6]>>[H:1][O:2][C:3][O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],-4.53549278939
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[O:12][C:11]>>[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12]1,-2.94923737425
[C:5]([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-6.55123574837
[O:1]=[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[O:1]=[C:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8],4.38246571039
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[O:13][H:14].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12],5.36145469725
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C@:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])[H:16],3.7967252696
[O:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3]([H:4])=[C:5]([H:6])[H:7].[O:1]=[C:2][C:8]([H:9])([H:10])[H:11],4.223933210759999
[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7])[C:11]([C:8]([H:9])[H:10])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]1[C:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-2.10096178295
[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12].[O:1]>>[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-7.39205333702
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10].[O:1]=[C:2][H:3],4.07356138406
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[H:10],4.6150003056
[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.60886496925
[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7]([H:8])[H:9]>>[O:1][C@:2]([O:3][H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],0.155885108879
[C:3]=[C:4]([H:5])[H:6].[O:1]=[C:2][O:7][C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([C:3]=[C:4]([H:5])[H:6])[O:7][C:8]([H:9])([H:10])[H:11],-3.56067204905
[C:1]#[C:2][C:3]1[C:4]([H:5])[C@:6]1([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-0.8516789540299999
[H:1].[O:2]=[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-2.58944108511
[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-6.323153949069999
